US07473688B2
13-cyclohexyl-N-[2-(dimethylamino)-2-oxoethyl]-6-[[4-(4-morpholinyl)-1-piperidinyl]carbonyl]-7H-indolo[2,1-a][2]benzazepine-10-carboxamide.
To a stirred solution of 13-cyclohexyl-6-[[4-(4-morpholinyl)-1-piperidinyl]carbonyl]-7H-indolo[2,1-a][2]benzazepine-10-carboxylic acid (40 mg, 0.07 mmol) in CH2Cl2 (1.5 mL) were added N,N-diisopropylethylamine (60 μL, 0.34 mmol), 2-amino-N,N-dimethylacetamide monoacetate (16 mg, 0.1 mmol), N-(3-dimethylaminopropyl)-N′-ethylcarbodiimide hydrochloride (19 mg, 0.1 mmol), and 1-hydroxybenzotriazole (14 mg, 0.1 mmol). The suspension was allowed to stir at r.t. for 2 days, then diluted with CH2Cl2, filtered through Celite, and chromatographed on silica gel (gradient elution: 0%→10% MeOH in CH2Cl2) to give the title compound as a yellow solid (22 mg, 48% yield). LC/MS (ESI) retention time: 1.66 min, m/z 638 (MH+); 1H NMR (400 MHz, CDCl3) δ 1.29-1.43 (m, 2 H) 1.47-1.59 (m, 1 H) 1.71-1.80 (m, 2 H) 1.87-1.96 (m, 1 H) 2.34-2.35 (m, 1 H) 2.40-2.51 (m, 3 H) 2.60-2.76 (m, 2 H) 2.77-2.89 (m, 1 H) 3.02 (s, 3 H) 3.04 (s, 3 H) 3.66 (s, 4 H) 4.25 (d, J=3.78 Hz, 2 H) 4.39 (s, 1 H) 5.07-5.08 (m, 1 H) 6.61 (s, 1 H) 6.81 (s, 1 H) 7.33-7.49 (m, 5 H) 7.51-7.59 (m, 1 H) 7.86 (d, J=8.56 Hz, 1 H) 8.02 (s, 1 H).

reactant | 13-cyclohexyl-6-[[4-(4-morpholinyl)-1-piperidinyl]carbonyl]-7H-indolo[2,1-a][2]benzazepine-10-carboxylic acid | 0.07 mmol, 40 mg | C1(CCCCC1)C=1C=2C=CC(=CC2N2C1C1=C(C=C(C2)C(=O)N2CCC(CC2)N2CCOCC2)C=CC=C1)C(=O)O | C34H39N3O4
reactant | N,N-diisopropylethylamine | 0.34 mmol, 60 μL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | 2-amino-N,N-dimethylacetamide monoacetate | 0.1 mmol, 16 mg | C(C)(=O)O.NCC(=O)N(C)C
reactant | N-(3-dimethylaminopropyl)-N′-ethylcarbodiimide hydrochloride | 0.1 mmol, 19 mg | Cl.CN(CCCN=C=NCC)C
reactant | 1-hydroxybenzotriazole | 0.1 mmol, 14 mg | ON1N=NC2=C1C=CC=C2 | C6H5N3O
solvent | CH2Cl2 | 1.5 mL | C(Cl)Cl | CH2Cl2
product | 13-cyclohexyl-N-[2-(dimethylamino)-2-oxoethyl]-6-[[4-(4-morpholinyl)-1-piperidinyl]carbonyl]-7H-indolo[2,1-a][2]benzazepine-10-carboxamide | 22 mg, 48% yield | C1(CCCCC1)C=1C=2C=CC(=CC2N2C1C1=C(C=C(C2)C(=O)N2CCC(CC2)N2CCOCC2)C=CC=C1)C(=O)NCC(=O)N(C)C | C38H47N5O4
